*************************************************
* CMOS Inverter – TRANSIENT ANALYSIS
*************************************************

.global Gnd

VDD vdd Gnd 1.8
VIN in  Gnd PULSE(0 1.8 0 1n 1n 10n 20n)

CL out Gnd 10f

M1000 out in vdd vdd pfet w=10u l=3u
M1001 out in Gnd Gnd nfet w=8u  l=3u

.model nfet nmos level=1
.model pfet pmos level=1

.measure tran TPHL TRIG v(in) VAL=0.9 RISE=1
+               TARG v(out) VAL=0.9 FALL=1

.measure tran TPLH TRIG v(in) VAL=0.9 FALL=1
+               TARG v(out) VAL=0.9 RISE=1

.measure tran TRISE TRIG v(out) VAL=0.18 RISE=1
+                TARG v(out) VAL=1.62 RISE=1

.measure tran TFALL TRIG v(out) VAL=1.62 FALL=1
+                TARG v(out) VAL=0.18 FALL=1

.measure tran IAVG AVG i(VDD)
.measure tran PAVG PARAM='-1.8*IAVG'

.control
tran 0.1n 100n
.endc

.end
